US09212182B2
A RBF was charged with 1-(5,6-dichloro-2-methoxypyridin-3-yl)-2-oxo-N-(pyridazin-3-yl)-1,2-dihydroquinoline-6-sulfonamide (0.075 g, 0.157 mmol), ethynylcyclopentane (0.074 ml, 0.784 mmol), diisopropylamine (0.134 ml, 0.941 mmol), copper(i) iodide (2.66 μl, 0.078 mmol), tetrakis(triphenylphosphine)palladium(0) (0.018 g, 0.016 mmol), and DMF (0.784 ml). The reaction was stirred at 100° C. for 18 hrs. The mixture was diluted with water and Ethyl Acetate. The organic portion was collected, dried with sodium sulfate, filtered, and concentrated. The crude material was purified via column chromatography (RediSep Gold 40 g, gradient elution 10-75% [3:1 EtOAc/EtOH]:Heptane to give 1-(5-chloro-6-(cyclopentylethynyl)-2-methoxy-3-pyridinyl)-2-oxo-N-3-pyridazinyl-1,2-dihydro-6-quinolinesulfonamide (55 mg, 0.103 mmol, 65.4% yield) as an off-white solid. m/z (ESI) 536.0 (M+H)+.

reactant | 1-(5,6-dichloro-2-methoxypyridin-3-yl)-2-oxo-N-(pyridazin-3-yl)-1,2-dihydroquinoline-6-sulfonamide | 0.157 mmol, 0.075 g | ClC=1C=C(C(=NC1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC=1N=NC=CC1)=O | C19H13Cl2N5O4S
reactant | ethynylcyclopentane | 0.784 mmol, 0.074 ml | C(#C)C1CCCC1 | C7H10
reactant | diisopropylamine | 0.941 mmol, 0.134 ml | C(C)(C)NC(C)C | C6H15N
reactant | DMF | 0.784 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(i) iodide | 0.078 mmol, 2.66 μl | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.016 mmol, 0.018 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Heptane | CCCCCCC | C7H16
product | 1-(5-chloro-6-(cyclopentylethynyl)-2-methoxy-3-pyridinyl)-2-oxo-N-3-pyridazinyl-1,2-dihydro-6-quinolinesulfonamide | 0.103 mmol, 55 mg, 65.4% yield | ClC=1C=C(C(=NC1C#CC1CCCC1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC=1N=NC=CC1)=O | C26H22ClN5O4S
